US09120749B2
2-Chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol
Following general procedure E, 4-bromo-2-chloro-6-fluorophenol (271 mg, 1.2 mmol) was reacted with bis(pinacolato)diboron (305 mg, 1.2 mmol) to afford the desired product (340 mg, >99%) as a colorless oil: 1H NMR (500 MHz, CDCl3) δ 7.57 (t, J=1.3 Hz, 1H), 7.42 (dd, J=10.2, 1.3 Hz, 1H), 1.33 (s, 12H).

reactant | 4-bromo-2-chloro-6-fluorophenol | 1.2 mmol, 271 mg | BrC1=CC(=C(C(=C1)F)O)Cl | C6H3BrClFO
reactant | bis(pinacolato)diboron | 1.2 mmol, 305 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 2-Chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 340 mg, >99% | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
